US07265104B2
Following the procedure described for Example 1 (A), Step A, N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide (Preparation 9) (200 mg, 0.399 mmol) was condensed over 24 hours with 1H-indole-3-carbaldehyde (70 mg, 0.479 mmol). Purification by medium pressure chromatography eluting with a solvent gradient (CH2Cl2 to 20% acetone in CH2Cl2) provided 190 mg of N-benzyl-2-[8,9-difluoro-4-(1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide. MS 629.3 (M+1), 627.3 (M−1).

reactant | N-benzyl-2-(8,9-difluoro-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-acetamide | 0.399 mmol, 200 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3CC1=O)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C28H25F2N5O2
reactant | 1H-indole-3-carbaldehyde | 0.479 mmol, 70 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | N-benzyl-2-[8,9-difluoro-4-(1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide | 190 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3C(C1=O)=CC1=CNC3=CC=CC=C13)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C37H30F2N6O2
